US06992087B2
Preparation of 5-[2-chloro-4-(dimethylamino)phenyl]-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-({5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a pale yellow amorphous solid. IR (diffuse reflectance) 2971, 2932, 2890, 2875, 1608, 1563, 1482, 1442, 1389, 1366, 1352, 1207, 1175, 1090, 961 cm−1; OAMS supporting ions at: ESI+ 465.2; MS (EI) m/z 464 (M+); HRMS (FAB) calcd for C27H33CLN4O+H1 465.2421, found 465.2406. Anal. Calcd for C27H33ClN4O: C, 69.74; H, 7.15; N, 12.05. Found: C, 69.68; H, 7.16; N, 11.99.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-({5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)N(C)C)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C25H29ClN4O
product | 5-[2-chloro-4-(dimethylamino)phenyl]-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)N(C)C)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C27H33ClN4O
